US07838674B2
a) 5-Bromo-2-morpholin-4-ylmethyl-benzonitrile
A mixture of 5-bromo-2-bromomethyl-benzonitrile (2.0 g, 7.3 mmol), morpholine (0.76 g, 8.7 mmol) and K2CO3 (1.0 g, 7.3 mmol) is stirred in 50 DMF at room temperature for 72 hours. The reaction mixture is filtered and the filtrate is dried under vacuum to yield the title compound. 1H-NMR (400 MHz; DMSO-d6): 8.11 (d, 1H), 7.90 (dd, 1H), 7.53 (d, 1H), 3.60 (s, 2H), 3.56 (t, 4H), 2.39 (t, 4H). LC-MS (m/z, ES+): 281 (MH+), Retention time: 1.79 mins (LC-MS method 2)

reactant | 5-bromo-2-bromomethyl-benzonitrile | 7.3 mmol, 2.0 g | BrC=1C=CC(=C(C#N)C1)CBr | C8H5Br2N
reactant | morpholine | 8.7 mmol, 0.76 g | N1CCOCC1 | C4H9NO
reactant | K2CO3 | 7.3 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-Bromo-2-morpholin-4-ylmethyl-benzonitrile | BrC=1C=CC(=C(C#N)C1)CN1CCOCC1 | C12H13BrN2O
